US03974161
A. α-Cyano-β-(2-Nitro-5-Chlorophenyl)Acrylamide
A mixture of 5-chloro-2-nitrobenzaldehyde (47.0 g., 0.25 mole), 2-cyanoacetamide (21.0 g., 0.25 mole), diethylamine (0.5 ml.) and ethanol (500 ml.) is heated at reflux for one hour. Sodium ethoxide (10 mg.) is added to the clear mixture and refluxing continued for an additional 2.5 hours. It is then cooled and the crystalline product which precipitates recovered by filtration. Yield = 52.3 g. (88%); m.p. of crude = 183°-185° C. It is used without purification in step B.

reactant | 5-chloro-2-nitrobenzaldehyde | 0.25 mole, 47.0 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 2-cyanoacetamide | 0.25 mole, 21.0 g | C(#N)CC(=O)N | C3H4N2O
reactant | diethylamine | 0.5 ml | C(C)NCC | C4H11N
reactant | Sodium ethoxide | 10 mg | [O-]CC.[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | α-Cyano-β-(2-Nitro-5-Chlorophenyl)Acrylamide | C(#N)C(C(=O)N)=CC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C10H6ClN3O3
